US04510307
To 9.57 g of 1-(3,4-dihydro-4-oxo-6-quinazolinesulfonyl)-4-(2-ethoxy-2-phenylethyl)piperazine hydrochloride were added 40 ml of thionyl chloride and 4.8 ml of N,N-dimethylformamide, and the mixture was refluxed under heating. To the residue thus obtained were added 60 ml of chloroform and 30 ml of a mixture of ice and water, and the mixture was stirred under cooling with ice. Then the chloroform layer was separated therefrom and the aqueous layer was extracted with chloroform and the chloroform layer obtained was combined with the one previously separated. The chloroform layer was washed with, in order, water, a saturated sodium bicarbonate solution and water, and then dried with Glauber's salt. The chloroform layer thus obtained was condensed under reduced pressure to give 7.33 g of 1-(4-chloro-6-quinazolinesulfonyl)-4-(2-ethoxy-2-phenylethyl)piperazine as an oily substance in a yield of 80%.

reactant | 1-(3,4-dihydro-4-oxo-6-quinazolinesulfonyl)-4-(2-ethoxy-2-phenylethyl)piperazine hydrochloride | 9.57 g | Cl.O=C1NC=NC2=CC=C(C=C12)S(=O)(=O)N1CCN(CC1)CC(C1=CC=CC=C1)OCC
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 4.8 ml | CN(C=O)C | C3H7NO
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-(4-chloro-6-quinazolinesulfonyl)-4-(2-ethoxy-2-phenylethyl)piperazine | 7.33 g, yield of 80% | ClC1=NC=NC2=CC=C(C=C12)S(=O)(=O)N1CCN(CC1)CC(C1=CC=CC=C1)OCC | C22H25ClN4O3S
